US05886044
b) Preparation of 2-amino-6-phenylphenol
To a solution of 2-nitro-6-phenylphenol(900 mg, 4.2 mmol) in methanol(50 ml) was added 10% Pd/C (100 mg). The mixture was flushed with argon, then hydrogen was bubbled through the solution for 10 min. and a hydrogen atmosphere was maintained at balloon pressure overnight. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated and chromatography of the resulting solid on silica gel (5% MeOH/CH2Cl2) gave the desired product(700 mg, 90%). 1H NMR (CD3OD): δ 7.55-7.27 (m, 5H), 6.77-6.61 (m, 3H)

reactant | 2-nitro-6-phenylphenol | 4.2 mmol, 900 mg | [N+](=O)([O-])C1=C(C(=CC=C1)C1=CC=CC=C1)O | C12H9NO3
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-amino-6-phenylphenol | 700 mg, 90% | NC1=C(C(=CC=C1)C1=CC=CC=C1)O | C12H11NO
